US05068325
4u) 2-Amino-6-(3-(2-naphthyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 3-(2-naphthyl)allyl chloride and 2 equivalents of 2-amino-4,5,7,8-tetrahydro-6 H-thiazolo[5,4-d]azepine in chloroform for 3 days at 20° C. Yield: 20% of theory, Melting point: 164°-165° C. (chloroform).

reactant | 3-(2-naphthyl)allyl chloride | C1=C(C=CC2=CC=CC=C12)C=CCCl | C13H11Cl
reactant | 2-amino-4,5,7,8-tetrahydro-6 H-thiazolo[5,4-d]azepine | 2 equivalents | NC=1SC=2CCNCCC2N1 | C7H11N3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(2-naphthyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 20% | NC=1SC=2CCN(CCC2N1)CC=CC1=CC2=CC=CC=C2C=C1 | C20H21N3S
